US09023846B2
To a mixture of 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-6-chloro-3-nitro-pyridin-4-ylamine (1.20 g, 3.45 mmol, prepared as described in the previous step), 2-trifluoromethyl-phenyl-boronic acid (786 mg, 4.14 mmol), Cs2CO3 (2.81 g, 8.62 mmol) and Pd(dppf)2.DCM (282 mg, 0.345 mmol) in 1,4-dioxane (12 mL) was added water (5 mL). The resulting mixture was stirred at 110° C. under microwave irradiation for 2 h and then cooled to room temperature. The resulting mixture was treated with of EtOAc (50 mL), then washed with H2O and brine and was dried (Na2SO4). Removal of the solvent under reduced pressure followed by flash chromatography of the residue on silica gel (5:95-40:60 EtOAc-hexanes) yielded 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-4-ylamine as a light brown solid. 1H-NMR (400 MHz, CDCl3) δ: 7.76 (d, J=7.8 Hz, 1H), 7.51-7.65 (m, 2H), 7.46 (d, J=7.3 Hz, 1H), 6.41 (s, 1H), 6.08 (br. s., 2H), 4.50 (t, J=5.3 Hz, 2H), 3.95 (t, J=5.3 Hz, 2H), 0.89 (s, 9H), 0.07 (s, 6H). Mass Spectrum (LCMS, ESI pos.) Calculated For C20H26F3N3O4Si: 458.1 (M+H), Measured: 458.0.

reactant | 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-6-chloro-3-nitro-pyridin-4-ylamine | C(C)(C)(C)[Si](OCCOC1=NC(=CC(=C1[N+](=O)[O-])N)Cl)(C)C | C13H22ClN3O4Si
reactant | 2-trifluoromethyl-phenyl-boronic acid | 4.14 mmol, 786 mg | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | Cs2CO3 | 8.62 mmol, 2.81 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DCM | 0.345 mmol, 282 mg | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | water | 5 mL | O | H2O
product | 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-4-ylamine | C(C)(C)(C)[Si](OCCOC1=NC(=CC(=C1[N+](=O)[O-])N)C1=C(C=CC=C1)C(F)(F)F)(C)C | C20H26F3N3O4Si
